US06521643B1
To a suspension of N-(2-fluoro-5-(4-methoxypyridin-2-yl)phenyl)-thiourea (0.104 g) in dimethyl sulfoxide (5 ml) was added a sodium hydride (60% dispersion in mineral oil ,15.4 mg), and the mixture was stirred at 100° C. for 5 hours. The mixture was diluted with ethyl acetate and washed with water three times and brine. The separated organic layer was dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 10 g, 5% methanol in dichloromethane). The compound obtained was dissolved in ethyl acetate, and a solution of hydrogen chloride in 1,4-dioxane (4N, 1 ml) was added. The precipitate was collected by filtration and dried under reduced pressure to give 2-amino-5-(4-methoxypyridin-2-yl)benzothiazole dihydrochloride (46 mg).

reactant | N-(2-fluoro-5-(4-methoxypyridin-2-yl)phenyl)-thiourea | 0.104 g | FC1=C(C=C(C=C1)C1=NC=CC(=C1)OC)NC(=S)N | C13H12FN3OS
reactant | sodium hydride | 15.4 mg | [H-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 4N, 1 ml | O1CCOCC1 | C4H8O2
product | 2-amino-5-(4-methoxypyridin-2-yl)benzothiazole dihydrochloride | 46 mg | Cl.Cl.NC=1SC2=C(N1)C=C(C=C2)C2=NC=CC(=C2)OC | InChI=1S/C13H11N3OS.2ClH/c1-17-9-4-5-15-10(7-9)8-2-3-12-11(6-8)16-13(14)18-12;;/h2-7H,1H3,(H2,14,16);2*1H
